US06897231B2
B. 3-[3-(2-Furylcarbonylamino)phenyl]-1H-indazole-5-carboxamide
3-[3-(2-Furylcarbonylamino)phenyl]-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide was suspended in 10 mL of toluene and HCl gas was bubbled through for 15 min. The reaction mixture was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the reaction mixture was evaporated to dryness and purified by preparatory HPLC. (0.111 g, 54% yield): 1H NMR (DMSO d6) δ 13.5 (br s, 1H), 10.3 (s, 1H), 8.64 (s, 1H), 8.4 (s, 1H), 8.11 (br s, 1H), 7.97 (s, 1H), 7.92 (t, 2H), 7.8 (d, 1H), 7.6 (d, 1H), 7.52 (t, 1H), 7.39 (d, 1H), 7.36 (s, 1H), 6.7 (t, 1H); ES-MS (m/z) 347 [M+H]+.

reactant | 3-[3-(2-Furylcarbonylamino)phenyl]-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | O1C(=CC=C1)C(=O)NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C24H22N4O4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[3-(2-Furylcarbonylamino)phenyl]-1H-indazole-5-carboxamide | 54% yield | O1C(=CC=C1)C(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C19H14N4O3
